US06919342B2
b.3 2-tert-Butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-propyl-pyrimidine
15 g of 2-tert-butyl-4-piperazin-1-yl-6-propyl-pyrimidine (57.2 mmol), 9 g of 1-bromo-3-chloropropane (57.2 mmol), 8.7 g of triethylamine (86.2 mmol) in 200 ml of acetonitrile were heated to reflux for 3 h. The precipitate was filtered off and the remaining filtrate evaporated to dryness. The thus obtained crude product was purified by chromatography on silica gel with dichloromethane/methanol (0-5%). Yield: 6 g (31%).

reactant | 2-tert-butyl-4-piperazin-1-yl-6-propyl-pyrimidine | 57.2 mmol, 15 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCNCC1)CCC | C15H26N4
reactant | 1-bromo-3-chloropropane | 57.2 mmol, 9 g | BrCCCCl | C3H6BrCl
reactant | triethylamine | 86.2 mmol, 8.7 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 2-tert-Butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-propyl-pyrimidine | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCl)CCC | C18H31ClN4
